US07494992B2
Preparation 139: (1S,2R,4aS,5R,8R,8aR)-2,8a-dihydroxy-3,8-dimethyl-5-(1-methylethenyl)-1,2,4a,5,6,7,8,8a-octahydronaphthalen-1-yl (2S,3aR,9bR)-6-chloro-9b -hydroxy-5-methyl-1,2,3,3a,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylate
To a stirred suspension of (1S,2R,4aS,5R,8R,8aR)-2-(acetyloxy)-8a-hydroxy-3,8-dimethyl-5-(1-methylethenyl)-1,2,4a,5,6,7,8,8a-octahydronaphthalen-1-yl (2S,3aR,9bR)-6-chloro-9b-hydroxy-5-methyl-1,2,3,3a,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylate, (Preparation 1, 1 g) in methanol (25 ml) was added a solution of concentrated hydrochloric acid (2 ml) in methanol (25 ml). After 5 days the reaction mixture was diluted with dichloromethane (150 ml), washed with water (3×100 ml), filtered through cotton wool and evaporated to dryness to give a yellow, oily solid. This residue was partially dissolved in dichloromethane (25 ml) and hexane (50 ml) was slowly added. After 1 hour, the suspension was filtered to give the product as an off-white solid (900 mg).

reactant | (1S,2R,4aS,5R,8R,8aR)-2-(acetyloxy)-8a-hydroxy-3,8-dimethyl-5-(1-methylethenyl)-1,2,4a,5,6,7,8,8a-octahydronaphthalen-1-yl (2S,3aR,9bR)-6-chloro-9b-hydroxy-5-methyl-1,2,3,3a,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylate | ClC1=CC=CC=2[C@]3([C@@H](ON(C21)C)N[C@@H](C3)C(=O)O[C@H]3[C@@H](C(=C[C@H]2[C@@H](CC[C@H]([C@]32O)C)C(=C)C)C)OC(C)=O)O | C29H37ClN2O7
reactant | hydrochloric acid | 2 ml | Cl | ClH
reactant | hexane | 50 ml | CCCCCC | C6H14
solvent | methanol | 25 ml | CO | CH4O
solvent | methanol | 25 ml | CO | CH4O
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | (1S,2R,4aS,5R,8R,8aR)-2,8a-dihydroxy-3,8-dimethyl-5-(1-methylethenyl)-1,2,4a,5,6,7,8,8a-octahydronaphthalen-1-yl (2S,3aR,9bR)-6-chloro-9b -hydroxy-5-methyl-1,2,3,3a,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylate | 900 mg | ClC1=CC=CC=2[C@]3([C@@H](ON(C21)C)N[C@@H](C3)C(=O)O[C@H]3[C@@H](C(=C[C@H]2[C@@H](CC[C@H]([C@]32O)C)C(=C)C)C)O)O | C27H35ClN2O6
